US08685958B2
(3-(4-(5-oxa-2-azaspiro[3.4]octan-2-ylmethyl)phenoxy)azetidin-1-yl)(5-(4-methoxyphenyl)-1,3,4-oxadiazol-2-yl)methanone
5-Oxa-2-azaspiro[3.4]octane HCl salt (0.052 g, 0.35 mmol) was dissolved in dichloromethane (2 ml). Triethylamine (0.052 ml, 0.38 mmol) was added, followed by 4-(1-(5-(4-methoxyphenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde (0.11 g, 0.29 mmol) and finally sodium triacetoxyhydroborate (0.123 g, 0.58 mmol). The reaction was stirred at ambient temperature overnight. The reaction mixture was then diluted with dichloromethane (10 ml) and subsequently shaken with NaHCO3 (sat. 2 ml). The two phases were separated using a phase separator. The organic phase was evaporated. The product was purified by preparative reverse-phase HPLC at pH 10 to give 23 mg (17%) of the desired product as a solid. 1H NMR (500 MHz, CDCl3): δ 1.90 (p, 2H), 2.13 (t, 2H), 3.16 (d, 2H), 3.37 (d, 2H), 3.62 (s, 2H), 3.80 (t, 2H), 3.91 (s, 3H), 4.33 (dd, 1H), 4.62-4.7 (m, 1H), 4.73-4.78 (m, 1H), 5.03-5.16 (m, 2H), 6.74 (d, 2H), 7.04 (d, 2H), 7.25 (d, 2H), 8.11 (d, 2H). MS (APCI+) m/z 477.3 [M+H]+, LC purity: 97%

reactant | 5-Oxa-2-azaspiro[3.4]octane HCl salt | 0.35 mmol, 0.052 g | Cl.C1NCC12OCCC2
reactant | Triethylamine | 0.38 mmol, 0.052 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(1-(5-(4-methoxyphenyl)-1,3,4-oxadiazole-2-carbonyl)azetidin-3-yloxy)benzaldehyde | 0.29 mmol, 0.11 g | COC1=CC=C(C=C1)C1=NN=C(O1)C(=O)N1CC(C1)OC1=CC=C(C=O)C=C1 | C20H17N3O5
reactant | sodium | [Na] | Na
reactant | NaHCO3 | 2 ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (3-(4-(5-oxa-2-azaspiro[3.4]octan-2-ylmethyl)phenoxy)azetidin-1-yl)(5-(4-methoxyphenyl)-1,3,4-oxadiazol-2-yl)methanone | 23 mg, 17% | C1N(CC12OCCC2)CC2=CC=C(OC1CN(C1)C(=O)C=1OC(=NN1)C1=CC=C(C=C1)OC)C=C2 | C26H28N4O5
